US05281593
ii) 2-(Benzyloxy)-aniline
Hydrazine hydrate (5 ml) was added dropwise over 20 minutes to a stirred suspension of Raney nickel in a solution of 2-(benzyloxy)nitrobenzene in methanol (200 ml) causing gentle reflux. The stirred mixture was heated under reflux for a further 30 minutes, cooled, filtered and evaporated. The residue was distilled under vacuum to give a pale oil, b.p. 146°-150°/0.5 mm.

reactant | Hydrazine hydrate | 5 ml | O.NN
reactant | 2-(benzyloxy)nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO3
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 200 ml | CO | CH4O
product | 2-(Benzyloxy)-aniline | C(C1=CC=CC=C1)OC1=C(N)C=CC=C1 | C13H13NO
